US05143920
A solution of 3-butyryl-4-chloro-8-acetylquinoline (2.0 g) and 4-amino-3-methylphenol (1.23 g, 10 mmol) in 1,4-dioxan (25 ml) was warmed briefly to reflux, then the dioxan evaporated. Chromatography (silica, 4-6% methanol in dichloromethane) and recrystallisation from ethyl acetate gave 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-acetylquinoline (0.65 g), m.p. 183°-185°.

reactant | 3-butyryl-4-chloro-8-acetylquinoline | 2.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C(C)=O | C15H14ClNO2
reactant | 4-amino-3-methylphenol | 10 mmol, 1.23 g | NC1=C(C=C(C=C1)O)C | C7H9NO
solvent | 1,4-dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-acetylquinoline | 0.65 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)C(C)=O | C22H22N2O3
